** sch_path: /foss/designs/adc8b/sch/sar_adc_test.sch
**.subckt sar_adc_test
V11 net2 vss SIN(0.6 0.55 'fin' 0 0 0)
V4 net1 vss SIN(0.6 0.55 'fin' 0 0 180)
V5 cks vss PULSE(0 1.2 1n 10p 10p 50n 100n)
x1 vdd vddr vss vip vin cks data[0] data[1] data[2] cko frame adc8b
V2 vdd vss PWL(0 0 1n 1.2)
V7 vddr vss PWL(0 0 1n 1.2)
V8 vss GND 0
R1 vin net1 50
R2 vip net2 50
**** begin user architecture code



.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/xyce/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/xyce/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/xyce/models/cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/xyce/models/cornerDIO.lib dio_tt
.include /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cap_mfringe.lib
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice
.include /foss/designs/adc8b/sch/simulations/sg13cmos5l_io_simple.spi





.preprocess replaceground true
.option temp=27
.param c=2.46164f
.param fin=1054687.5

* Binary-to-decimal converter for ADC output (8-bit, data[0]=MSB, data[7]=LSB)

.tran 100n 2u 0
.print tran format=raw file=sar_adc_test.raw V(*) I(*)
.print tran format=csv file=adc10b_tb_dynamic.csv V(data[0]) V(data[1]) V(data[2]) V(cko) V(frame)
.measure tran avg_pow_a avg { V(vdd)*(-I(V2)) } from=1n to=535u
.measure tran avg_pow_r avg { V(vddr)*(-I(V7)) } from=1n to=535u


**** end user architecture code
**.ends

* expanding   symbol:  adc8b.sym # of pins=9
** sym_path: /foss/designs/adc8b/sch/adc8b.sym
** sch_path: /foss/designs/adc8b/sch/adc8b.sch
.subckt adc8b vdd vddr vss vip vin cks data[0] data[1] data[2] cko frame
*.ipin vddr
*.ipin vss
*.ipin vip
*.ipin vin
*.opin data[0],data[1],data[2]
*.opin cko
*.ipin cks
*.ipin vdd
*.opin frame
x7 vddr vss ph_sw[0] ph_sw[1] ph_sw[2] ph_sw[3] ph_sw[4] ph_sw[5] ph_sw[6] ph_sw[7] ph_sw[8] ph_sw[9] ph_sw[10] pl_sw[0] pl_sw[1]
+ pl_sw[2] pl_sw[3] pl_sw[4] pl_sw[5] pl_sw[6] pl_sw[7] pl_sw[8] pl_sw[9] pl_sw[10] vcp side_cap8b
x8 vddr vss nh_sw[0] nh_sw[1] nh_sw[2] nh_sw[3] nh_sw[4] nh_sw[5] nh_sw[6] nh_sw[7] nh_sw[8] nh_sw[9] nh_sw[10] nl_sw[0] nl_sw[1]
+ nl_sw[2] nl_sw[3] nl_sw[4] nl_sw[5] nl_sw[6] nl_sw[7] nl_sw[8] nl_sw[9] nl_sw[10] vcn side_cap8b
x9 vss vdd ckc cko cks comp_p data[0] data[1] data[2] frame nh_sw[0] nh_sw[10] nh_sw[1] nh_sw[2] nh_sw[3] nh_sw[4] nh_sw[5]
+ nh_sw[6] nh_sw[7] nh_sw[8] nh_sw[9] nl_sw[0] nl_sw[10] nl_sw[1] nl_sw[2] nl_sw[3] nl_sw[4] nl_sw[5] nl_sw[6] nl_sw[7] nl_sw[8] nl_sw[9]
+ ph_sw[0] ph_sw[10] ph_sw[1] ph_sw[2] ph_sw[3] ph_sw[4] ph_sw[5] ph_sw[6] ph_sw[7] ph_sw[8] ph_sw[9] pl_sw[0] pl_sw[10] pl_sw[1] pl_sw[2]
+ pl_sw[3] pl_sw[4] pl_sw[5] pl_sw[6] pl_sw[7] pl_sw[8] pl_sw[9] rdy sar12b
x10 vip vin cks vdd vss vcp vcn diff_bsw
x11 vdd vss vcp vcn ckc rdy comp_p comp_n cmp
**** begin user architecture code


*.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice

*xvddr vss vdd iovss iovdd vddr vddr_res sg13cmos5l_IOPadAnalog
*xvip vss vdd iovss iovdd vip vip_res sg13cmos5l_IOPadAnalog
*xvin vss vdd iovss iovdd vin vin_res sg13cmos5l_IOPadAnalog
*xcks vss vdd iovss iovdd cks cks_res sg13cmos5l_IOPadAnalog
*xvdd vss vdd iovss iovdd sg13cmos5l_IOPadVdd
*xvss vss vdd iovss iovdd sg13cmos5l_IOPadVss
*xd1 vss vdd iovss iovdd data[0] dout[0] sg13cmos5l_IOPadAnalog
*xd2 vss vdd iovss iovdd data[1] dout[1] sg13cmos5l_IOPadAnalog
*xd3 vss vdd iovss iovdd data[2] dout[2] sg13cmos5l_IOPadAnalog
*xd4 vss vdd iovss iovdd data[3] dout[3] sg13cmos5l_IOPadAnalog
*xd5 vss vdd iovss iovdd data[4] dout[4] sg13cmos5l_IOPadAnalog
*xd6 vss vdd iovss iovdd data[5] dout[5] sg13cmos5l_IOPadAnalog
*xd7 vss vdd iovss iovdd data[6] dout[6] sg13cmos5l_IOPadAnalog
*xd8 vss vdd iovss iovdd data[7] dout[7] sg13cmos5l_IOPadAnalog
*xd9 vss vdd iovss iovdd data[8] dout[8] sg13cmos5l_IOPadAnalog
*xd10 vss vdd iovss iovdd data[9] dout[9] sg13cmos5l_IOPadAnalog
*xd11 vss vdd iovss iovdd data[10] dout[10] sg13cmos5l_IOPadAnalog
*xd12 vss vdd iovss iovdd data[11] dout[11] sg13cmos5l_IOPadAnalog
*xcko vss vdd iovss iovdd cko eoc sg13cmos5l_IOPadAnalog


**** end user architecture code
.ends


* expanding   symbol:  side_cap8b.sym # of pins=5
** sym_path: /foss/designs/adc8b/sch/side_cap8b.sym
** sch_path: /foss/designs/adc8b/sch/side_cap8b.sch
.subckt side_cap8b vdd vss in_h_sw[0] in_h_sw[1] in_h_sw[2] in_h_sw[3] in_h_sw[4] in_h_sw[5] in_h_sw[6] in_h_sw[7] in_h_sw[8]
+ in_h_sw[9] in_h_sw[10] in_l_sw[0] in_l_sw[1] in_l_sw[2] in_l_sw[3] in_l_sw[4] in_l_sw[5] in_l_sw[6] in_l_sw[7] in_l_sw[8] in_l_sw[9]
+ in_l_sw[10] vc
*.ipin vdd
*.ipin vss
*.ipin in_h_sw[0],in_h_sw[1],in_h_sw[2],in_h_sw[3],in_h_sw[4],in_h_sw[5],in_h_sw[6],in_h_sw[7],in_h_sw[8],in_h_sw[9],in_h_sw[10]
*.ipin in_l_sw[0],in_l_sw[1],in_l_sw[2],in_l_sw[3],in_l_sw[4],in_l_sw[5],in_l_sw[6],in_l_sw[7],in_l_sw[8],in_l_sw[9],in_l_sw[10]
*.iopin vc
x3 vdd vss in_l_sw[10] l_sw[10] buf_1
x7[1] vdd vss in_l_sw[8] l_sw[8] buf_2
x7[2] vdd vss in_l_sw[9] l_sw[9] buf_2
x2[1] vdd vss in_l_sw[6] l_sw[6] buf_4
x2[2] vdd vss in_l_sw[7] l_sw[7] buf_4
x6[1] vdd vss in_l_sw[3] l_sw[3] buf_8
x6[2] vdd vss in_l_sw[4] l_sw[4] buf_8
x6[3] vdd vss in_l_sw[5] l_sw[5] buf_8
x6 vdd vss in_h_sw[10] h_sw[10] buf_1
x8[1] vdd vss in_h_sw[8] h_sw[8] buf_2
x8[2] vdd vss in_h_sw[9] h_sw[9] buf_2
x3[1] vdd vss in_h_sw[6] h_sw[6] buf_4
x3[2] vdd vss in_h_sw[7] h_sw[7] buf_4
x5[1] vdd vss in_h_sw[3] h_sw[3] buf_8
x5[2] vdd vss in_h_sw[4] h_sw[4] buf_8
x5[3] vdd vss in_h_sw[5] h_sw[5] buf_8
x1[1] vdd vss in_l_sw[1] l_sw[1] buf_16
x1[2] vdd vss in_l_sw[2] l_sw[2] buf_16
x4[1] vdd vss in_h_sw[1] h_sw[1] buf_16
x4[2] vdd vss in_h_sw[2] h_sw[2] buf_16
x4 vdd vss in_l_sw[0] l_sw[0] buf_32
x5 vdd vss in_h_sw[0] h_sw[0] buf_32
x1 h_sw[0] h_sw[1] h_sw[2] h_sw[3] h_sw[4] h_sw[5] h_sw[6] h_sw[7] h_sw[8] h_sw[9] h_sw[10] l_sw[0] l_sw[1] l_sw[2] l_sw[3]
+ l_sw[4] l_sw[5] l_sw[6] l_sw[7] l_sw[8] l_sw[9] l_sw[10] vc vdd vss cap8b
.ends


* expanding   symbol:  sar12b.sym # of pins=13
** sym_path: /foss/designs/adc8b/sch/sar12b.sym
.include /foss/designs/adc8b/sch/simulations/sar12b.spice

* expanding   symbol:  diff_bsw.sym # of pins=7
** sym_path: /foss/designs/adc8b/sch/diff_bsw.sym
** sch_path: /foss/designs/adc8b/sch/diff_bsw.sch
.subckt diff_bsw vip vin ck vdd vss vcp vcn
*.ipin vip
*.ipin vin
*.ipin ck
*.ipin vdd
*.ipin vss
*.opin vcp
*.opin vcn
x1 vip ck vdd vss vcp single_bsw
x2 vin ck vdd vss vcn single_bsw
.ends


* expanding   symbol:  cmp.sym # of pins=8
** sym_path: /foss/designs/adc8b/sch/cmp.sym
** sch_path: /foss/designs/adc8b/sch/cmp.sch
.subckt cmp vdd vss vip vin clk rdy outp outn
*.ipin vdd
*.ipin vss
*.ipin vip
*.ipin vin
*.ipin clk
*.opin rdy
*.opin outp
*.opin outn
XM14 outn clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2 m=1 mm_ok=1
XM1 outp outn vdd vdd sg13_lv_pmos w=2.5u l=0.13u ng=2 m=1 mm_ok=1
XM2 outp clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2 m=1 mm_ok=1
XM3 outn outp vdd vdd sg13_lv_pmos w=2.5u l=0.13u ng=2 m=1 mm_ok=1
XM5 net4 vip net1 vss sg13_lv_nmos w=10.0u l=0.13u ng=2 m=1 mm_ok=1
XM6 net1 clk vss vss sg13_lv_nmos w=2.0u l=0.13u ng=4 m=1 mm_ok=1
XM7 net5 vin net1 vss sg13_lv_nmos w=10.0u l=0.13u ng=2 m=1 mm_ok=1
x1 net6 net2 net3 vdd vss sg13cmos5l_or2_1
XM4 outn outp net4 vss sg13_lv_nmos w=10.0u l=0.13u ng=2 m=1 mm_ok=1
XM8 outp outn net5 vss sg13_lv_nmos w=10.0u l=0.13u ng=2 m=1 mm_ok=1
XM9 net4 clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2 m=1 mm_ok=1
XM10 net5 clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2 m=1 mm_ok=1
x6 net2 outp vdd vss sg13cmos5l_inv_1
x7 net3 outn vdd vss sg13cmos5l_inv_1
x2 vdd vss sg13cmos5l_decap_4
x3 vdd vss sg13cmos5l_decap_4
x4 rdy net6 vdd vss sg13cmos5l_dlygate4sd3_1
.ends


* expanding   symbol:  buf_1.sym # of pins=4
** sym_path: /foss/designs/adc8b/sch/buf_1.sym
** sch_path: /foss/designs/adc8b/sch/buf_1.sch
.subckt buf_1 vdd vss x z
*.ipin vdd
*.ipin vss
*.ipin x
*.opin z
XM2 z x vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1 mm_ok=1
XM4 z x vss vss sg13_lv_nmos w=500n l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  buf_2.sym # of pins=4
** sym_path: /foss/designs/adc8b/sch/buf_2.sym
** sch_path: /foss/designs/adc8b/sch/buf_2.sch
.subckt buf_2 vdd vss x z
*.ipin vdd
*.ipin vss
*.ipin x
*.opin z
XM2 z x vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=2 mm_ok=1
XM4 z x vss vss sg13_lv_nmos w=500n l=0.13u ng=1 m=2 mm_ok=1
.ends


* expanding   symbol:  buf_4.sym # of pins=4
** sym_path: /foss/designs/adc8b/sch/buf_4.sym
** sch_path: /foss/designs/adc8b/sch/buf_4.sch
.subckt buf_4 vdd vss x z
*.ipin vdd
*.ipin vss
*.ipin x
*.opin z
XM2 z x vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=4 rfmode=1 mm_ok=1
XM4 z x vss vss sg13_lv_nmos w=500n l=0.13u ng=1 m=4 rfmode=1 mm_ok=1
.ends


* expanding   symbol:  buf_8.sym # of pins=4
** sym_path: /foss/designs/adc8b/sch/buf_8.sym
** sch_path: /foss/designs/adc8b/sch/buf_8.sch
.subckt buf_8 vdd vss x z
*.ipin vdd
*.ipin vss
*.ipin x
*.opin z
XM2 z x vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=8 mm_ok=1
XM4 z x vss vss sg13_lv_nmos w=500n l=0.13u ng=1 m=8 mm_ok=1
.ends


* expanding   symbol:  buf_16.sym # of pins=4
** sym_path: /foss/designs/adc8b/sch/buf_16.sym
** sch_path: /foss/designs/adc8b/sch/buf_16.sch
.subckt buf_16 vdd vss x z
*.ipin vdd
*.ipin vss
*.ipin x
*.opin z
XM2 z x vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=16 mm_ok=1
XM4 z x vss vss sg13_lv_nmos w=500n l=0.13u ng=1 m=16 mm_ok=1
.ends


* expanding   symbol:  buf_32.sym # of pins=4
** sym_path: /foss/designs/adc8b/sch/buf_32.sym
** sch_path: /foss/designs/adc8b/sch/buf_32.sch
.subckt buf_32 vdd vss x z
*.ipin vdd
*.ipin vss
*.ipin x
*.opin z
XM2 z x vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=32 mm_ok=1
XM4 z x vss vss sg13_lv_nmos w=500n l=0.13u ng=1 m=32 mm_ok=1
.ends


* expanding   symbol:  cap8b.sym # of pins=5
** sym_path: /foss/designs/adc8b/sch/cap8b.sym
** sch_path: /foss/designs/adc8b/sch/cap8b.sch
.subckt cap8b h_sw[0] h_sw[1] h_sw[2] h_sw[3] h_sw[4] h_sw[5] h_sw[6] h_sw[7] h_sw[8] h_sw[9] h_sw[10] l_sw[0] l_sw[1] l_sw[2]
+ l_sw[3] l_sw[4] l_sw[5] l_sw[6] l_sw[7] l_sw[8] l_sw[9] l_sw[10] vc vdd vss
*.ipin l_sw[0],l_sw[1],l_sw[2],l_sw[3],l_sw[4],l_sw[5],l_sw[6],l_sw[7],l_sw[8],l_sw[9],l_sw[10]
*.ipin vss
*.iopin vc
*.ipin h_sw[0],h_sw[1],h_sw[2],h_sw[3],h_sw[4],h_sw[5],h_sw[6],h_sw[7],h_sw[8],h_sw[9],h_sw[10]
*.ipin vdd
C3 vc l_sw[4] 'c' m=64
C4 vc h_sw[4] 'c' m=64
C5 vc l_sw[5] 'c' m=32
C6 vc h_sw[5] 'c' m=32
C7 vc l_sw[6] 'c' m=16
C8 vc h_sw[6] 'c' m=16
C9 vc l_sw[7] 'c' m=8
C10 vc h_sw[7] 'c' m=8
C11 vc l_sw[8] 'c' m=4
C12 vc h_sw[8] 'c' m=4
C13 vc l_sw[9] 'c' m=2
C14 vc h_sw[9] 'c' m=2
C15 vc l_sw[10] 'c'
C16 vc h_sw[10] 'c'
C17 vc vdd 'c'
C26 vc vss 'c'
C1 vc l_sw[0] 'c' m=1024
C2 vc h_sw[0] 'c' m=1024
C18 vc l_sw[1] 'c' m=512
C19 vc h_sw[1] 'c' m=512
C20 vc l_sw[2] 'c' m=256
C21 vc h_sw[2] 'c' m=256
C22 vc l_sw[3] 'c' m=128
C23 vc h_sw[3] 'c' m=128
.ends


* expanding   symbol:  single_bsw.sym # of pins=5
** sym_path: /foss/designs/adc8b/sch/single_bsw.sym
** sch_path: /foss/designs/adc8b/sch/single_bsw.sch
.subckt single_bsw in ck vdd vss out
*.ipin vdd
*.ipin vss
*.ipin in
*.ipin ck
*.opin out
XM1 vdd net2 net1 vss sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1 mm_ok=1
XM3 vdd net1 net2 vss sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1 mm_ok=1
XM4 vgs net9 net3 net3 sg13_lv_pmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XM2 vdd net2 net3 vss sg13_lv_nmos w=1.3u l=0.13u ng=1 m=1 mm_ok=1
XM6 net5 gp vdd vdd sg13_lv_pmos w=500n l=130n ng=1 m=1 mm_ok=1
XM5 net5 vdd net4 vss sg13_lv_nmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XM7 net4 ckb vss vss sg13_lv_nmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XM8 net6 net5 in vss sg13_lv_nmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XM9 out vgs in vss sg13_lv_nmos w=2.5u l=0.13u ng=1 m=1 mm_ok=1
XM10 net7 vdd vgs vss sg13_lv_nmos w=500n l=0.13u ng=1 m=1 mm_ok=1
XM11 vss ckb net7 vss sg13_lv_nmos w=500n l=0.13u ng=1 m=1 mm_ok=1
XM12 net6 ckb vss vss sg13_lv_nmos w=1.3u l=0.4u ng=1 m=1 mm_ok=1
x1 net8 ckb vdd vss sg13cmos5l_inv_1
x2 net9 gp vdd vss sg13cmos5l_inv_1
x3 ckb ck vdd vss sg13cmos5l_inv_1
XC2 net3 net6 cap_mfringe w=40.0u l=10.0u mmin=1 mmax=4
XC1 net1 net8 cap_mfringe w=8.0u l=8.0u mmin=1 mmax=4
XC3 net2 ckb cap_mfringe w=8.0u l=8.0u mmin=1 mmax=4
x4 vdd vss sg13cmos5l_decap_4
x5 vdd vss sg13cmos5l_decap_4
x6 vdd vss sg13cmos5l_decap_4
.ends

.GLOBAL GND
.end
